US08440652B2
General method B was applied to 4-bromo-N-cyclopropylbenzenesulfonamide (41 mg, 0.15 mmol), 6-amino-5-(4-carbamoylphenyl)pyridin-3-ylboronic acid (53 mg, 0.15 mmol), to give 4-(2-amino-5-(4-(N-cyclopropylsulfamoyl)phenyl)pyridin-3-yl)benzamide as a white solid (29 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.42 (d, J=2.3 Hz, 1H), 8.03 (br. s., 1H), 7.98 (d, J=8.3 Hz, 2H), 7.90 (d, J=8.5 Hz, 2H), 7.87 (d, J=2.5 Hz, 1H), 7.80 (d, J=8.5 Hz, 2H), 7.76 (d, J=1.5 Hz, 1H), 7.61 (d, J=8.3 Hz, 2H), 7.37 (br. s., 1H), 6.06 (br. s., 2H), 2.06-2.13 (m, 1H), 0.42-0.50 (m, 2H), 0.35-0.42 (m, 2H); MS (EI) m/z: 409 [M+H]+.

reactant | 4-bromo-N-cyclopropylbenzenesulfonamide | 0.15 mmol, 41 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1CC1 | C9H10BrNO2S
reactant | 6-amino-5-(4-carbamoylphenyl)pyridin-3-ylboronic acid | 0.15 mmol, 53 mg | NC1=C(C=C(C=N1)B(O)O)C1=CC=C(C=C1)C(N)=O | C12H12BN3O3
product | 4-(2-amino-5-(4-(N-cyclopropylsulfamoyl)phenyl)pyridin-3-yl)benzamide | 29 mg, 41% yield | NC1=NC=C(C=C1C1=CC=C(C(=O)N)C=C1)C1=CC=C(C=C1)S(NC1CC1)(=O)=O | C21H20N4O3S
